US07842688B2
a) Benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-[4-(2-phenoxyethylcarbamoyl)phenyl]piperidine-1-carboxylate
A solution of 0.36 g of benzyl 4-(4-carboxyphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate and 0.125 g of 2-phenoxyethylamine in 5 ml of N,N-dimethylformamide is admixed under argon with 0.172 g of 3-dimethylaminopropyl ethyl carbodiimide hydrochloride and 0.0037 g of 4-dimethylaminopyridine. The reaction solution is stirred at room temperature over 3 days, subsequently poured onto 25 ml of water and extracted with 50 ml of tert-butyl methyl ether. The organic phase is dried over potassium carbonate, filtered and concentrated. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.16 (2:1 EtOAc-heptane); Rt=5.18.

reactant | benzyl 4-(4-carboxyphenyl)-3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | 0.36 g | C(=O)(O)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1 | C33H38N2O7
reactant | 2-phenoxyethylamine | 0.125 g | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | 3-dimethylaminopropyl ethyl carbodiimide hydrochloride | 0.172 g | Cl.CN(CCCN=C=NCC)C
reactant | water | 25 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.0037 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Benzyl 3-[4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-[4-(2-phenoxyethylcarbamoyl)phenyl]piperidine-1-carboxylate | COCCCN1CCOC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)C(NCCOC2=CC=CC=C2)=O)C(=O)OCC2=CC=CC=C2 | C41H47N3O7
